US07205318B2
To a stirred solution of the HCl salt of cis-(2-amino-cyclohexyl)-methanol (1.0 g, 6.17 mmol) were sequentially added Et3N (1.72 mL, 2.0 eq) and (Boc)2O (1.41 g, 6.48 mmol, 1.05 eq). The mixture was stirred at rt for 4 h. It was partitioned between CH2Cl2 and H2O. The organic layers were washed with brine, dried (MgSO4), filtered, and concentrated to dryness to give cis-(2-hydroxymethyl-cyclohexyl)-carbamic acid tert-butyl ester as a colorless foam (1.38 g, yield: 98%).

reactant | HCl | Cl | ClH
reactant | cis-(2-amino-cyclohexyl)-methanol | 6.17 mmol, 1.0 g | N[C@@H]1[C@@H](CCCC1)CO | C7H15NO
reactant | Et3N | 1.72 mL, 2.0 eq | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 6.48 mmol, 1.41 g, 1.05 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | cis-(2-hydroxymethyl-cyclohexyl)-carbamic acid tert-butyl ester | 1.38 g, yield: 98% | C(C)(C)(C)OC(N[C@H]1[C@H](CCCC1)CO)=O | C12H23NO3
